US04560692
(d) N-ethyl-1-[6-fluoro-2-phenyl-4-quinolinyl]-4-piperidinecarboxamide
In a manner analogous to that of Example 1(e) but using 1-[(6-fluoro-2-phenyl-4-quinolinyl]-4-piperidinecarbonyl chloride and ethylamine as starting materials the named compound was obtained as cream-colored needles, mp 225°-227° dec after recrystallization from methanol.

reactant | (6-fluoro-2-phenyl-4-quinolinyl]-4-piperidinecarbonyl chloride | FC=1C=C2C(=CC(=NC2=CC1)C1=CC=CC=C1)N1CCC(CC1)C(=O)Cl | C21H18ClFN2O
reactant | ethylamine | C(C)N | C2H7N
product | N-ethyl-1-[6-fluoro-2-phenyl-4-quinolinyl]-4-piperidinecarboxamide | C(C)NC(=O)C1CCN(CC1)C1=CC(=NC2=CC=C(C=C12)F)C1=CC=CC=C1 | C23H24FN3O
